US07592477B2
To a solution of tert-butyl-4-(4-tolyl)benzoate (32 g, 0.12 mol) in carbontetrachloride (500 mL) was added N-bromosuccinimide (23.3 g, 0.13 mol) and benzoyl peroxide (4.0 g). The reaction mixture was refluxed for 10 h. After cooling to RT, the reaction mixture was filtered. The filtrate was concentrated and the crude was recrystallised from petEther to give 4-(4-tert-butoxycarbonylphenyl)benzylbromide (26 g, 69%).

reactant | tert-butyl-4-(4-tolyl)benzoate | 0.12 mol, 32 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C1=CC=C(C=C1)C)=O | C18H20O2
reactant | N-bromosuccinimide | 0.13 mol, 23.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 4.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbontetrachloride | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(4-tert-butoxycarbonylphenyl)benzylbromide | 26 g, 69% | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C1=CC=C(CBr)C=C1 | C18H19BrO2
